US08623859B2
tert-Butyl[3-fluoro-5-(pyrrolidin-1-ylmethyl)benzyl]carbamate
1-[3-fluoro-5-(pyrrolidin-1-ylmethyl)phenyl]methanamine (150 mg, 0.72 mmol), di-tert-butyl dicarbonate (236 mg, 1.08 mmol) and TEA (0.15 mL, 1.08 mmol) were stirred in DCM (5 mL) at ambient temperature for 18 h. The reaction was partitioned between saturated aqueous NaHCO3 (10 mL) and DCM (3×10 mL) and the combined organic extracts were dried over MgSO4 and concentrated in vacuo to afford the title compound as a light yellow oil. No further purification was required.

reactant | 1-[3-fluoro-5-(pyrrolidin-1-ylmethyl)phenyl]methanamine | 0.72 mmol, 150 mg | FC=1C=C(C=C(C1)CN1CCCC1)CN | C12H17FN2
reactant | di-tert-butyl dicarbonate | 1.08 mmol, 236 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl[3-fluoro-5-(pyrrolidin-1-ylmethyl)benzyl]carbamate | C(C)(C)(C)OC(NCC1=CC(=CC(=C1)CN1CCCC1)F)=O | C17H25FN2O2
